US04104380
Acetyl-dibenzyl-glycolic-acid β-(4-phenyl-piperidino)-ethyl ester oxalate
75 g. (0.46 mol) β-4-phenylpiperidine is heated with 38 g. (0.46 mol) 2-chloroethanol for 5 hours at about 120° C. After cooling, the reaction mixture is dissolved in 500 ml. water, rendered alkaline with potassium carbonate, extracted with 1 liter ether, dried, evaporated and the residue distilled in a high vacuum. There is obtained 55 g. (61% of theory) β-(4-phenyl-piperidino)-ethanol (b.p. 155° C./0.2 mm.Hg.), which is dissolved in 500 ml. chloroform. The corresponding hydrochloride is then precipitated out by the addition of dry hydrogen chloride. 50 ml. thionyl chloride is added and the reaction mixture heated under reflux for 5 hours and cooled. The precipitated product is filtered off, dissolved in 300 ml. water and rendered alkaline with 10N aqueous sodium hydroxide solution. The precipitated base is extracted with 500 ml. ether, dried and evaporated. There is obtained 45 g. (75% of theory) β-(4-phenyl-piperidino)-ethyl chloride.

reactant | 2-chloroethanol | 0.46 mol | ClCCO | C2H5ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | β-(4-phenyl-piperidino)-ethanol | C1(=CC=CC=C1)C1CCN(CC1)CCO | C13H19NO
reactant | β-(4-phenyl-piperidino)-ethyl chloride | C1(=CC=CC=C1)C1CCN(CC1)CCCl | C13H18ClN
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Acetyl-dibenzyl-glycolic-acid β-(4-phenyl-piperidino)-ethyl ester oxalate | C(C(=O)O)(=O)O.C1(=CC=CC=C1)C1CCN(CC1)CCOC(C(OC(C)=O)(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | InChI=1S/C31H35NO4.C2H2O4/c1-25(33)36-31(23-26-11-5-2-6-12-26,24-27-13-7-3-8-14-27)30(34)35-22-21-32-19-17-29(18-20-32)28-15-9-4-10-16-28;3-1(4)2(5)6/h2-16,29H,17-24H2,1H3;(H,3,4)(H,5,6)
